.subckt DPST 1 2 3 4 5 6
S1 1 5 n001 3 SW_NC
S2 5 6 n001 3 SW_NO
R1 4 5 0.1
R2 2 n001 200
.model SW_NC SW(Ron=6 Roff=1G Vt=0.5 Vh=0.4)
.model SW_NO SW(Ron=1G Roff=6 Vt=0.5 Vh=0.4)
.ends DPST